US05849759
2-Isopropyl-5-methoxybenzimidazole (50 g) was dissolved in 150 mL TFA and to the mixture was added 5 mL 90% nitric acid. The reaction was stirred overnight, and the solvents removed in vacuo and the residue neutralized to pH 7 with saturated aqueous sodium bicarbonate. The residue was extracted with ethyl acetate (4×100 mL). The combined ethyl acetate fractions were dried over sodium sulfate and concentrated to give a dark residue. Chromatography (3% methanol/methylene chloride) gave 2-isopropyl-4-nitro-5-methoxybenzimidazole as a yellow solid, 24 g. Also obtained was 25 g of 2-isopropyl-5-nitro-6-methoxybenzimidazole.

reactant | 2-Isopropyl-5-methoxybenzimidazole | 50 g | C(C)(C)C=1NC2=C(N1)C=CC(=C2)OC | C11H14N2O
reactant | nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
reactant | methanol methylene chloride | CO.C(Cl)Cl
solvent | TFA | 150 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-isopropyl-4-nitro-5-methoxybenzimidazole | C(C)(C)C=1NC2=C(N1)C=CC(=C2[N+](=O)[O-])OC | C11H13N3O3
